US05455258
2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride is reacted with O-benzylhydroxylamine hydrochloride under conditions described for reaction with O-t-butylhydroxylamine hydrochloride to yield N-(benzyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methyl-butanamide, m.p. 74.5°-76° C.

reactant | 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C(C)C)CC=1C=NC=CC1
reactant | O-benzylhydroxylamine hydrochloride | Cl.C(C1=CC=CC=C1)ON
reactant | O-t-butylhydroxylamine hydrochloride | Cl.C(C)(C)(C)ON
product | N-(benzyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methyl-butanamide | C(C1=CC=CC=C1)ONC([C@@H](C(C)C)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H29N3O5S
